US04021432
A mixture of 11.45 parts of 4-phenylcarbamoyloxy-2,2,6,6-tetramethylpiperidine and 60 parts of styrene ocide in 60 parts of n-hexanol was heated under reflux conditions for 18 hours. The n-hexanol solvent and unreacted styrene oxide were removed by distillation under reduced pressure to yield a pale yellow crystalline solid. Purification by trituration with hot petroleum ether (b.p. 60°-80° C.) yielded 4-phenylcarbamoyloxy-1-[2'-hydroxy-2-'phenylethyl]-2,2,6,6-tetramethylpiperidine having a melting point of 186°-7° C. with the following elemental analysis by weight:

reactant | 4-phenylcarbamoyloxy-2,2,6,6-tetramethylpiperidine | C1(=CC=CC=C1)NC(=O)OC1CC(NC(C1)(C)C)(C)C | C16H24N2O2
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | n-hexanol | C(CCCCC)O | C6H14O
product | 4-phenylcarbamoyloxy-1-[2'-hydroxy-2-'phenylethyl]-2,2,6,6-tetramethylpiperidine | C1(=CC=CC=C1)NC(=O)OC1CC(N(C(C1)(C)C)CC(C1=CC=CC=C1)O)(C)C | C24H32N2O3
